US05962685
Synthesis of 2-methyl-5-[2-fluoro-6-(4,6-dimethoxypyrimidine-2-yloxy) phenyl]oxazole (Compound No. 3-94)
4 ml DMF solution containing 0.12 g 2-(2-methyloxazole-5-yl) -3-fluorophenol, 0.12 g 2-methanesulfonyl-4,6-dimethoxypyrimidine and 0.18 g pottasium carbonate was stirred for 14 hours at 50° C. After completing the reaction, the solution reacted was poured into ice water and then extracted with ethyl acetate. The organic layer obtained was washed with water and then dried by using anhydrous magnesium sulfate. After filtration, the solvent used was removed by distillation under reduced pressure, and the residue obtained was treated with petroleum ether, affording the objective substance in an amount of 0.1 g.

reactant | 2-(2-methyloxazole-5-yl) -3-fluorophenol | 0.12 g | CC=1OC(=CN1)C1=C(C=CC=C1F)O | C10H8FNO2
reactant | 2-methanesulfonyl-4,6-dimethoxypyrimidine | 0.12 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | carbonate | 0.18 g | C([O-])([O-])=O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-methyl-5-[2-fluoro-6-(4,6-dimethoxypyrimidine-2-yloxy) phenyl]oxazole | CC=1OC(=CN1)C1=C(C=CC=C1OC1=NC(=CC(=N1)OC)OC)F | C16H14FN3O4
